US07727989B2
d) 4-(1H-Benzimidazol-2-yl)-6-[2-(2-morpholin-4-ylethylamino)pyrimidin-4-yl]-2H-pyridazin-3-one
88 mg of 6-[2-(2-morpholin-4-ylethylamino)pyrimidin-4-yl]-2-(2-trimethylsilanyl-ethoxymethyl)-4-[1-(2-trimethylsilanylethoxymethyl)-1H-benzimidazol-2-yl]-2H-pyridazin-3-one are dissolved in 2 ml of a 1:1 mixture of dichloromethane and trifluoroacetic acid, and the mixture is stirred at room temperature for 2 hours. The volatile components are then distilled off, the residue is dissolved in 1 ml of methanol, and 1 ml of a two molar aqueous sodium hydroxide solution is added. The solution is stirred at room temperature for 12 hours and then put directly onto the preparative RP-HPLC (0-100% acetonitrile (+0.05% formic acid) in water (+0.05% formic acid)) to isolate the product.

reactant | 6-[2-(2-morpholin-4-ylethylamino)pyrimidin-4-yl]-2-(2-trimethylsilanyl-ethoxymethyl)-4-[1-(2-trimethylsilanylethoxymethyl)-1H-benzimidazol-2-yl]-2H-pyridazin-3-one | 88 mg | N1(CCOCC1)CCNC1=NC=CC(=N1)C=1C=C(C(N(N1)COCC[Si](C)(C)C)=O)C1=NC2=C(N1COCC[Si](C)(C)C)C=CC=C2 | C33H50N8O4Si2
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
product | 4-(1H-Benzimidazol-2-yl)-6-[2-(2-morpholin-4-ylethylamino)pyrimidin-4-yl]-2H-pyridazin-3-one | N1C(=NC2=C1C=CC=C2)C=2C(NN=C(C2)C2=NC(=NC=C2)NCCN2CCOCC2)=O | C21H22N8O2
